US06093732
3-(3-{[(4-Chlorobenzyl)amino]carbonyl}-8-fluoro-4-hydroxy-6-quinolinyl)propyl 2-(dimethylamino)acetate
To a solution of N-(4-chlorobenzyl)-8-fluoro-4-hydroxy-6-(3-hydroxypropyl)-3-quinolinecarboxamide from Example No. 110 (0.23 g), EDC hydrochloride (0.22 g), and DMAP (0.022 g) in 7 mL pyridine is added N,N-dimethylglycine (0.12 g). The reaction is allowed to stir at room temperature overnight. The solvent is removed in vacuo and the residue partitioned between CH2Cl2 and water. The organic layer is washed once with water, once with brine, dried over Na2SO4, filtered, and concentrated in vacuo. The residue is adsorbed onto silica and purified by chromatography on a Biotage Flash 40S column (eluent 1.5% MeOH:CH2Cl2 (1 L), 2.5% MeOH:CH2Cl2 (1 L), and 4% MeOH:CH2Cl2 (1 L)). The product-containing fractions are concentrated in vacuo to give a white solid which is further triturated in EtOH, filtered, washed with hexanes, and dried. (0.14 g, 51%).

reactant | N-(4-chlorobenzyl)-8-fluoro-4-hydroxy-6-(3-hydroxypropyl)-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)CCCO)F)C=C1 | C20H18ClFN2O3
reactant | EDC hydrochloride | 0.22 g | CCN=C=NCCCN(C)C.Cl
reactant | N,N-dimethylglycine | 0.12 g | CN(CC(=O)O)C | C4H9NO2
catalyst | DMAP | 0.022 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 7 mL | N1=CC=CC=C1 | C5H5N
product | 3-(3-{[(4-Chlorobenzyl)amino]carbonyl}-8-fluoro-4-hydroxy-6-quinolinyl)propyl 2-(dimethylamino)acetate | CN(CC(=O)OCCCC=1C=C2C(=C(C=NC2=C(C1)F)C(=O)NCC1=CC=C(C=C1)Cl)O)C | C24H25ClFN3O4
